US06265575B1
Part B. 2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl 4-Methoxyphenyl Ketone
The title compound was prepared from 4-anisoyl chloride and 2-(4-methoxyphenyl)benzo[b]thiophene (Part A) as a tan solid in 90% yield following recrystallization from THF-hexanes.

reactant | 4-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | 2-(4-methoxyphenyl)benzo[b]thiophene | COC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2 | C15H12OS
product | 2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl 4-Methoxyphenyl Ketone | 90% yield | COC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=CC=C2 | C23H18O3S
